US05591735
Preparation of 16β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2β-(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol
16β-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-17β-hydroxy-5α-androstane is reacted with 4-hydroxypiperidine as described in Example 3 to obtain the title compound in a yield of 78.3%, m.p.: 199°-201° C.

reactant | 16β-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-17β-hydroxy-5α-androstane | O1CCOC12CCN(CC2)[C@@H]2[C@@H]([C@]1(C)[C@@H](C2)[C@@H]2CC[C@H]3C[C@H]4[C@@H](C[C@]3(C)[C@H]2CC1)O4)O | C26H41NO4
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 16β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2β-(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol | yield of 78.3% | O1CCOC12CCN(CC2)[C@@H]2[C@@H]([C@]1(C)[C@@H](C2)[C@@H]2CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]2CC1)N1CCC(CC1)O)O)O | C31H52N2O5
